US05041156
2.5 g of 2-chloro-5[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4fluorobenzoic acid are heated at reflux temperature for 3 hours in 20 ml of benzene and 2.4 ml of thionyl chloride together with one drop of dimethylformamide. Subsequently, the reaction mixture is evaporated to dryness and dissolved in 15 ml of dioxan. This solution, which consists mainly of the acid chloride of the above-mentioned benzoic acid and the solvent, is added dropwise at room temperature to a solution of 0.7 g of isopropyl mercaptan and 0.8 g of pyridine in 10 ml of dioxan. The reaction mixture is then stirred at room temperature for 2.5 hours, treated with 300 ml of water and extracted twice with 300 ml of ethyl acetate each time. The combined organic phases are washed twice with 150 ml of lN hydrochloric acid each time and once with 150 ml of saturated sodium chloride solution, dried over anhydrous sodium sulphate and evaporated. The residue is purified by chromatography on silica gel with ethyl acetate/n-hexane (2:3). In this manner there is obtained S-isopropyl 2-chloro-5-[3,6-dihydro-2 6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorothiobenzoate as a viscous oil.

reactant | 2-chloro-5[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4fluorobenzoic acid | 2.5 g | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H7ClF4N2O4
reactant | thionyl chloride | 2.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | S-isopropyl 2-chloro-5-[3,6-dihydro-2 6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorothiobenzoate | ClC1=C(C(=O)SC(C)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H13ClF4N2O3S
